US09034866B2
10-bromo-3-(trifluoromethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol via General Procedure E to afford 19 mg (20%) of 10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide.

reactant | 10-bromo-3-(trifluoromethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C1 | C13H9BrF3N3O2
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 19 mg, 20% | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C1)(C)C1=NOC(=C1)C | C21H17F3N4O4
